US06207778B1
Preparation of Lauryl-Dimethyl Methacrylamidopropyl Ammonium Chloride
A mixture of 350 g of DMAPMA and 280 g of chlorododecene (1.5:1) was stirred with 111.2 g of water (15%) and 6 drops of concentrated sulfuric acid. The reaction mixture was heated up to 95°0 C. and N2 was bubbled through it. The conversion was followed by GC. After 24 hours the reaction mixture was cooled off (95% conversion of vinyl chloride) and product was further used in polymerization without purification.

reactant | DMAPMA | 350 g | CC(=C)C(=O)NCCCN(C)C | C9H18N2O
reactant | chlorododecene | 280 g | ClC=CCCCCCCCCCC | C12H23Cl
catalyst | sulfuric acid | 6 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 111.2 g | O | H2O
product | Lauryl-Dimethyl Methacrylamidopropyl Ammonium Chloride | [Cl-].C(CCCCCCCCCCC)[N+](CCCNC(C(=C)C)=O)(C)C | InChI=1S/C21H42N2O.ClH/c1-6-7-8-9-10-11-12-13-14-15-18-23(4,5)19-16-17-22-21(24)20(2)3;/h2,6-19H2,1,3-5H3;1H
